Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:11])([H:15])[H:16])([H:9])[H:10].[H:8][H:17],83.2819939291871
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:6](=[O+:5][C-:4]([H:14])[H:15])[N:7]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],14.218280660353997
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[C:3]=[O:4])([C:5]#[N:6])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],72.63686996950602
[N:1]1([H:6])[C:2]([C:4](=[O:5])[H:9])([H:7])[N:3]1[H:8]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],40.10296168584371
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:3]1=[C:4]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[C:2]1([H:9])[H:10])[H:8],73.8090835598004
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:14])[H:16],76.27625040068051
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:4]([N:3]=[C:2]([H:10])[H:11])([O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9],101.332618783678
[C-:2](=[N+:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],13.8255321592518
[C:3](#[C:4][C:5]#[N:6])[H:7].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],64.8699258217343
[N:1]#[C:2][C:3]1=[N:7][C@@:4]1([N:5]([N:6])[H:9])[H:8]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,19.02558138734321
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:5](=[C-:6][H:12])[C+:4]1[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],6.724389918850704
[H:8][H:10].[O:1](/[C:2](=[C:3](/[O:4][C:5](=[O:6])[H:12])[H:11])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],67.6161923122313
[C:1](=[O:2])([H:8])[H:9].[C:3](=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:10])[H:11].[H:7][H:12]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.7892453194745
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:3]([O:2][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]([O:7][H:17])([H:15])[H:16])[H:13],82.7922385110302
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])([H:8])([H:9])[H:10].[C:4]([H:11])([H:12])([H:13])[H:14],72.3498802930656
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4](/[C:5](=[C:6](\[C:7][H:14])[H:12])[H:13])([H:10])[H:11])[H:9])[H:8],67.22808697644399
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:6](=[C:5])[H:16])([H:7])([H:8])[H:9],60.903611792426396
[C:1]([C:2]1=[C:3]([H:11])[N:7]1/[C:5](=[N:4]/[H:12])[O:6][H:13])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10],14.624944685653205
[C:3]1([H:8])([H:9])[C:4]([N+:7]#[C-:6])=[C:5]1[H:10].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],31.076059989867794
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([O:4][N:7]([H:13])[H:14])([H:12])[C:5]1=[O:6])([H:8])([H:9])[H:10],114.268351464924
[C-:4]#[N+:5][C:6]#[C:7][H:12].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],53.38543859542981
[N:1]([C@@:2]([C:4](=[C:3])[H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],10.186540345787293
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C@@:7]1([C:6]([C:5](=[O:4])[H:10])([H:11])[H:12])[H:13],39.0867888751101
[C:2](=[O:3])=[N:4][C:5](=[O:6])[H:10].[N:1]([H:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],21.7550159347787
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:6](=[C:5])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],15.364749018100099
